US08293763B2
8-(4-Cyclopropyl-2-fluoro-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid amide
To a solution of 8-(4-cyclopropyl-2-fluoro-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid methyl ester (23 mg, 0.07 mmol) in IMS (1.0 mL) was added a 1.0 M aqueous solution of sodium hydroxide (0.10 mL, 0.10 mmol). The reaction mixture was heated to 65° C. for 1 hour and then cooled to room temperature and concentrated in vacuo. The resulting residue was azeotroped with toluene, and then dissolved in DMF (1 mL). Ammonium chloride (7 mg, 0.13 mmol), N-N-diisopropylethylamine (47 uL, 0.27 mmol) and HATU (51 mg, 0.13 mmol) were added sequentially, before the reaction mixture was stirred for 18 hours at room temperature. The reaction mixture was then diluted with methanol and loaded onto an Isolute® SCX-2 cartridge (5 g). The cartridge was then washed with methanol and the desired product was subsequently eluted using 2M NH3 in MeOH. The eluent was collected and concentrated to give a residue. The residue was subjected to flash chromatography (Si-PPC, gradient 0% to 5%, methanol in dichloromethane) to afford the title compound as a pale yellow solid (5 mg, 23%). LCMS (method A): RT=6.64 min, [M+H]+=311. 1H NMR (CD3OD) 8.18 (1H, d, J=0.88 Hz), 7.64 (1H, dd, J=7.40, 0.97 Hz), 7.13 (1H, t, J=8.28 Hz), 6.93-6.86 (3 H, m), 6.35 (1H, s), 1.98-1.90 (1 H, m), 1.05-0.97 (2 H, m), 0.73-0.68 (2H, m).

reactant | 8-(4-cyclopropyl-2-fluoro-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid methyl ester | 0.07 mmol, 23 mg | COC(=O)C1=C(C=2N(C=C1)C=NC2)NC2=C(C=C(C=C2)C2CC2)F | C18H16FN3O2
reactant | sodium hydroxide | 0.10 mmol, 0.10 mL | [OH-].[Na+]
reactant | Ammonium chloride | 0.13 mmol, 7 mg | [Cl-].[NH4+]
reactant | HATU | 0.13 mmol, 51 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 8-(4-Cyclopropyl-2-fluoro-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid amide | 5 mg, 23% | C1(CC1)C1=CC(=C(C=C1)NC=1C=2N(C=CC1C(=O)N)C=NC2)F | C17H15FN4O
